US05441971
A mixture of methyl 2-bromo-3-[4-[2-(5-cyanomethyl-2-pyridyl)ethoxy]phenyl]propionate (7.2 g), thiourea (1.2 g), sodium acetate (1.3 g) and ethanol (80 ml) was heated under reflux for 5 hours and concentrated under reduced pressure. To the residue was added saturated aqueous sodium bicarbonate solution (100 ml)-ether (50 ml) and the mixture was stirred for 15 minutes. The precipitated crystals were filtered off to obtain 5-[4-[2-(5-cyanomethyl-2-pyridyl)ethoxy]benzyl]-2-imino-4-thiazolidinone (2.5 g, yield: 38%). This compound was recrystallized from chloroform-methanol to obtain colorless prisms, m.p. 211°-212° C.

reactant | methyl 2-bromo-3-[4-[2-(5-cyanomethyl-2-pyridyl)ethoxy]phenyl]propionate | 7.2 g | BrC(C(=O)OC)CC1=CC=C(C=C1)OCCC1=NC=C(C=C1)CC#N | C19H19BrN2O3
reactant | thiourea | 1.2 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 1.3 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 5-[4-[2-(5-cyanomethyl-2-pyridyl)ethoxy]benzyl]-2-imino-4-thiazolidinone | 2.5 g, yield: 38% | C(#N)CC=1C=CC(=NC1)CCOC1=CC=C(CC2C(NC(S2)=N)=O)C=C1 | C19H18N4O2S
